US09145409B2
A mixture of (S)-tert-butyl ((3-hydroxyphenyl)(phenyl)methyl)carbamate (I8, 3.20 g, 10.7 mmol), methyl 4-(bromomethyl)benzoate (2.70 g, 11.8 mmol) and potassium carbonate (2.20 g, 16.1 mmol) in acetonitrile (54 mL) was stirred at RT for 16 h. The reaction mixture was removed in vacuo and the residue was partitioned between ethyl acetate and water. The aqueous phase was extracted with further ethyl acetate and the combined organic extracts were dried with anhydrous magnesium sulfate, filtered and the solvent was removed in vacuo. The residue was re-crystallised from ethyl acetate and iso-hexane to afford (S)-Methyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)-phenoxy)methyl)benzoate as a white solid (3.25 g, 68%). 1H NMR (400 MHz, CDCl3): δ 8.04 (d, J=8.2 Hz, 2 H), 7.46 (d, J=8.2 Hz, 2 H), 7.34-7.20 (m, 6 H), 6.90-6.81 (m, 3 H), 5.87 (s, 1 H), 5.13 (s, 1 H), 5.07 (s, 2 H), 3.92 (s, 3 H), 1.44 (s, 9 H).

reactant | (S)-tert-butyl ((3-hydroxyphenyl)(phenyl)methyl)carbamate | 10.7 mmol, 3.20 g | OC=1C=C(C=CC1)[C@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O | C18H21NO3
reactant | methyl 4-(bromomethyl)benzoate | 11.8 mmol, 2.70 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | potassium carbonate | 16.1 mmol, 2.20 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 54 mL | C(C)#N | C2H3N
product | (S)-Methyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)-phenoxy)methyl)benzoate | 3.25 g, 68% | C(C)(C)(C)OC(=O)N[C@H](C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1)C1=CC=CC=C1 | C27H29NO5
